* Z:\mnt\design.r\spice\examples\LT3934S.asc
V1 IN 0 20
C1 N008 0 1n
R1 N010 0 28.7K
R2 N011 0 45.3K
C2 N013 0 100p
C3 0 N001 1µ
L1 N002 OUT 2.2µ
C5 OUT 0 2.2µ
R3 OUT N006 25m
D1 N009 0 LXK2-PW14 n=2
M1 N009 N007 N006 N006 IRF7343P
R4 OUT N004 140K
R5 N004 0 10K
V2 N005 0 1.5
XU1 N001 NC_01 N002 OUT N004 OUT N006 N007 NC_02 0 N012 N011 N010 N008 0 NC_03 N005 N003 N003 IN IN LT3934S
R6 N012 N013 10k
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 500u startup
.lib LT3934S.sub
.backanno
.end
